US07842713B2
Preparation of Intermediate 323c: Ethyl 4-[4-(difluoromethyl)phenoxy]-2-formyl-1-benzofuran-6-carboxylate
A solution of ethyl 2-(bromomethyl)-4-[4-(difluoromethyl)phenoxy]-1-benzofuran-6-carboxylate (440 mg, 1.03 mmol) and IBX (579 mg, 2.07 mmol) in DMSO (2 mL) was heated at 65° C. for 3 h. The reaction was quenched with water and the product was extracted with CHCl3 (3×). The combined organic layers was washed with water (2×), dried over MgSO4 and concentrated. The product was purified via gradient silica gel chromatography using hexanes/EtOAc (100/0 to 50/50) to give the title compound (300 mg, 81%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.39 (t, J=7.16 Hz, 3 H) 4.39 (q, J=7.16 Hz, 2 H) 6.67 (t, J=56.42 Hz, 1 H) 7.11-7.18 (m, J=8.67 Hz, 2 H) 7.48 (d, J=0.94 Hz, 1 H) 7.51 (d, J=0.94 Hz, 1H) 7.55 (d, J=8.67 Hz, 2 H) 8.08 (d, J=0.94 Hz, 1 H) 9.87 (s, 1 H).

reactant | ethyl 2-(bromomethyl)-4-[4-(difluoromethyl)phenoxy]-1-benzofuran-6-carboxylate | 1.03 mmol, 440 mg | BrCC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)C(F)F | C19H15BrF2O4
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
product | Ethyl 4-[4-(difluoromethyl)phenoxy]-2-formyl-1-benzofuran-6-carboxylate | 300 mg, 81% | FC(C1=CC=C(OC2=CC(=CC3=C2C=C(O3)C=O)C(=O)OCC)C=C1)F | C19H14F2O5
